US05302720
A mixture of 2-biphenylylcyanamide (3.8 g), 1-methanesulphonylpiperazine (3.8 g) and ethanol (60 ml) was heated at 90°-95° C. for 12 hours to give N-(2-biphenylyl)-4-methanesulphonylpiperazine-1-carboxamidine (m.p. 178°-180° C.) which was recrystallized from ethanol.

reactant | 2-biphenylylcyanamide | 3.8 g | C1(=C(C=CC=C1)NC#N)C1=CC=CC=C1 | C13H10N2
reactant | 1-methanesulphonylpiperazine | 3.8 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-(2-biphenylyl)-4-methanesulphonylpiperazine-1-carboxamidine | C1(=C(C=CC=C1)NC(=N)N1CCN(CC1)S(=O)(=O)C)C1=CC=CC=C1 | C18H22N4O2S
